US04656298
A solution of 3.5 g of ethyl 2-benzyl-2-cyanoethyl(diethoxymethyl)phosphinate in 50 ml of ethanol is added to 25 g of an 8% solution of ammonia in ethanol. To this are added 2 ml of Raney Nickel and the resulting mixture is hydrogenated at 1 bar until the theoretical amount of hydrogen has been taken up. The mixture is then filtered and the filtrate is concentrated under reduced pressure to give ethyl 3-amino-2-benzylpropyl(diethoxymethyl)phosphinate as a viscous oil, 31P=+46.3 ppm (CDCl3).

reactant | ethyl 2-benzyl-2-cyanoethyl(diethoxymethyl)phosphinate | 3.5 g | C(C1=CC=CC=C1)C(CP(OCC)(=O)C(OCC)OCC)C#N | C17H26NO4P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 2 ml | [Ni] | Ni
product | ethyl 3-amino-2-benzylpropyl(diethoxymethyl)phosphinate | NCC(CP(OCC)(=O)C(OCC)OCC)CC1=CC=CC=C1 | C17H30NO4P
